US07728009B1
B. 1-Isopropyl-4-(4-methyl-2-naphthalen-1-yl-thiazol-5-ylmethyl)-piperazine
To a solution of (4-isopropyl-piperazin-1-yl)-(4-methyl-2-naphthalen-1-yl-thiazol-5-yl)-methanone (25 mg, 0.066 mmol) in anhydrous THF (2.5 ml) is added a solution of alane-dimethylethylamine complex in toluene (0.5 M, 0.4 ml, 0.2 mmol, 3.0 eq.) dropwise at 0° C. The resulting mixture is stirred at rt overnight. The reaction is quenched with one drop of water, followed by one drop of 10 N sodium hydroxide solution and two more drops of water. The resulting mixture is diluted with EtOAc (10 ml), dried over magnesium sulfate, and concentrated. The residue is purified through PTLC (EtOAc/Et3N, 25:1) to give the desired product. 1H NMR (300 MHz, CDCl3) δ 8.78 (1H, dd), 7.89 (2H, m), 7.78 (1H, dd), 7.60˜7.45 (3H, m), 3.74 (2H, s), 2.76˜2.54 (9H, m, overlapped), 2.51 (3H, s), 1.06 (6H, d); LC-MS (M+1) 366.2.

reactant | (4-isopropyl-piperazin-1-yl)-(4-methyl-2-naphthalen-1-yl-thiazol-5-yl)-methanone | 0.066 mmol, 25 mg | C(C)(C)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=CC2=CC=CC=C12)C | C22H25N3OS
reactant | toluene | 0.2 mmol, 0.5 M, 0.4 ml, 3.0 eq. | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 1-Isopropyl-4-(4-methyl-2-naphthalen-1-yl-thiazol-5-ylmethyl)-piperazine | C(C)(C)N1CCN(CC1)CC1=C(N=C(S1)C1=CC=CC2=CC=CC=C12)C | C22H27N3S
